US08729078B2
To the saturated solution of ammonia in MeOH was added 165 mg of 4-bromo-1-methyl-1H-imidazole-2-carboxylic acid methyl ester and the resulting mixture was stirred at 20° C. for 16 h. The solution was evaporated to give 4-bromo-1-methyl-1H-imidazole-2-carboxylic acid amide (154 mg, yield 100%). LC-MS calcd for C5H6BrN3O (m/e) 202.97, obsd 204 and 206 [M+1]+.

reactant | ammonia | N | H3N
reactant | 4-bromo-1-methyl-1H-imidazole-2-carboxylic acid methyl ester | 165 mg | COC(=O)C=1N(C=C(N1)Br)C | C6H7BrN2O2
solvent | MeOH | CO | CH4O
product | 4-bromo-1-methyl-1H-imidazole-2-carboxylic acid amide | 154 mg, yield 100% | BrC=1N=C(N(C1)C)C(=O)N | C5H6BrN3O
